US07612114B2
1-(2-Hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)ethanone
The title compound was synthesized by referring to Chem. Lett., 2000,(7), 738. To a solution of 1-(2,4-dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone (2.8 g) in acetonitrile (150 ml) were sequentially added sodium iodide (3.0 g) and cerium(III) chloride heptahydrate (5.7 g), and the solution was refluxed for 20 hours and 30 minutes. Sodium iodide (760 mg) and cerium(III) chloride heptahydrate (1.9 g) were added thereto, and the solution was further refluxed for 22 hours 30 minutes. To the reaction solution were added ethyl acetate and water, the solution was filtered through celite pad, extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was adsorbed onto silica gel and purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (2.5 g).

reactant | 1-(2,4-dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone | 2.8 g | COC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)OC)=O | C17H18O4
reactant | sodium iodide | 3.0 g | [I-].[Na+]
reactant | cerium(III) chloride heptahydrate | 5.7 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium iodide | 760 mg | [I-].[Na+]
reactant | cerium(III) chloride heptahydrate | 1.9 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(2-Hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)ethanone | 2.5 g | OC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)OC)=O | C16H16O4
